US05496935
1-(2,3-Dideoxy-3-fluoro-β-D-ribofuranosyl)-uracil (1.3 mmoles) is dissolved in 45 mL of pyridine and treated with 1.1 mL of acetic anhydride. The reaction mixture is allowed to stand overnight at room temperature. The solution is concentrated, the residue dissolved in toluene and evaporated to dryness once more. The process is repeated several times. The residue, finally obtained, is dissolved in 80 mL of pyridine, mixed with 3.9 mmoles of phosphorus pentasulfide and refluxed for 6 hours. After this reaction time, a further 1.3 mmoles of phosphorus pentasulfide are added (J. J. Fox et al., J. Am. Chem. Soc. 1959, 81, 178; G. Kowollik et al., J. Prakt. Chem. 1973, 315, 895) and the mixture is refluxed for 6 hours. The reaction mixture is allowed to cool and the liquid portion is separated is separated from the remainder and evaporated to dryness under vacuum. The resulting residue is purified by column chromatography on a silicage sold by Merck, Darmstadt under the trade name Kieselgel 40, with chloroform as eluting agent. 1-(5-O-Acetyl-2,3-dideoxy-3-fluoro-β-D-ribofuranosyl)-4-thiouracil is isolated from the appropriate fractions and, after recrystallization from 90% ethanol, is obtained in a yield of 97 mg and has a melting point of 140°-140.5° C. This compound (15 mg, 0.06 mmoles) is dissolved in 2 mL of methanol and mixed at 0'C with 2 mL of ammonia-saturated methanol. After 24 hours, the solution is evaporated to dryness. The compound is obtained as a glass.

reactant | 1-(2,3-Dideoxy-3-fluoro-β-D-ribofuranosyl)-uracil | 1.3 mmoles | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | acetic anhydride | 1.1 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | phosphorus pentasulfide | 3.9 mmoles | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | phosphorus pentasulfide | 1.3 mmoles | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 45 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
product | 1-(5-O-Acetyl-2,3-dideoxy-3-fluoro-β-D-ribofuranosyl)-4-thiouracil | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=S)C=C1)F | C11H13FN2O4S
